US09371314B2
The reaction mixture of 6-amino-5-[5-({[(3-methylphenyl)amino]carbonyl}amino)-1-benzothien-2-yl]nicotinic acid (84 mg, 0.2 mmol, 1 eq), methyl 6-aminohexanoate hydrochloride (43.7 mg, 1.2 eq), DMAP (5 mg, 0.2 eq), and EDCI (46.1 mg, 1.2 eq) in anhydrous 1,2-dichloroethane (3 mL) was stirred and heated at 50° C. for 2 hours. It was then diluted with ethyl acetate, washed sequentially with aqueous NH4Cl, saturated aqueous NaHCO3, and brine, and dried with anhydrous sodium sulfate. The upper clear solution was decanted, concentrated, and the solid residue was triturated with EtOAc-Hex (3:1) yielding methyl 6-[({6-amino-5-[5-({[(3-methylphenyl)amino]carbonyl}amino)-1-benzothien-2-yl]pyridin-3-yl}carbonyl)amino]hexanoate as a white solid in amount of 83 mg.

reactant | 6-amino-5-[5-({[(3-methylphenyl)amino]carbonyl}amino)-1-benzothien-2-yl]nicotinic acid | 0.2 mmol, 84 mg, 1 eq | NC1=NC=C(C(=O)O)C=C1C=1SC2=C(C1)C=C(C=C2)NC(=O)NC2=CC(=CC=C2)C | C22H18N4O3S
reactant | methyl 6-aminohexanoate hydrochloride | 43.7 mg, 1.2 eq | Cl.NCCCCCC(=O)OC
reactant | EDCI | 46.1 mg, 1.2 eq | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 5 mg, 0.2 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-[({6-amino-5-[5-({[(3-methylphenyl)amino]carbonyl}amino)-1-benzothien-2-yl]pyridin-3-yl}carbonyl)amino]hexanoate | NC1=C(C=C(C=N1)C(=O)NCCCCCC(=O)OC)C=1SC2=C(C1)C=C(C=C2)NC(=O)NC2=CC(=CC=C2)C | C29H31N5O4S
